US07807691B2
5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-5-oxopentanoic acid
Cool a solution of 3,3-dimethylglutaric anhydride (5.16 g, 36.3 mmol) in tetrahydrofuran to about 0° C. using an ice water bath. Add 3,4-(methlyeneoxy)phenylmagnesium bromide (1M solution in tetrahydrofuran, 40 mL, 40.0 mmol) quickly under a flow of nitrogen gas. Stir for 30 min, then allow to warm to room temperature over a period of 1 h. Quench with saturated ammonium chloride solution. Dilute with water and ethyl acetate, separate the aqueous layer (pH=8-9) and then acidify using 1N HCl (pH=4-5). Extract using ethyl acetate, dry with magnesium sulfate, filter, and concentrate to afford the crude title compound as an orange/yellow oil (5.99 g). Subject the crude residue to flash chromatography (RediSep silica gel columns (120 g), gradient of 100:0 to 75:25 cyclohexane/ethyl acetate) to obtain 1.80 g (19%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.58-7.61 (m, 1H), 7.45 (s, 1H), 6.82-6.87 (m, 1H), 6.05 (s, 2H), 3.00 (s, 2H), 2.52 (s, 2H) and 1.15 (s, 6H).

reactant | 3,3-dimethylglutaric anhydride | 36.3 mmol, 5.16 g | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-5-oxopentanoic acid | 1.80 g, 19% | O1COC2=C1C=CC(=C2)C(CC(CC(=O)O)(C)C)=O | C14H16O5
